Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left carotid stenosis
 
Major Surgical or Invasive Procedure:
left carotid endarterectomy ___

 
History of Present Illness:
Mr. ___ is a ___ gentleman referred by Dr. 
___ evaluation of carotid stenosis that is symptomatic.  He had 
a
transient ischemic attack causing right arm weakness on ___.  He also had some slurred speech.  He was seen at
___ and his symptoms resolved over a period of
several hours.  He had a carotid ultrasound and MRI.  He had a
known history of carotid artery stenosis and has been followed 
by
Dr. ___.  He has 80-99% left carotid stenosis and minimal
stenosis on the right.  He has a history of intolerance to
various statins, but was started on Lipitor 10 mg and Plavix was
added and his aspirin dose was cut to 81 mg.  The physicians at
___ conferred with Dr. ___ medications.  He
has a prior history of a cerebellar infarct related to left
vertebral artery occlusion.  He has atherosclerotic risk factors
of hypertension, hyperlipidemia, and a family history of
atherosclerotic disease.  He also has anxiety.  He is status 
post
rhinoplasty in ___.

 
Past Medical History:
He has a prior history of a cerebellar infarct related to left
vertebral artery occlusion.  He has atherosclerotic risk factors
of hypertension, hyperlipidemia
 
Social History:
___
Family History:
Family history is notable for his father with heart disease
including congestive heart failure who died at the age of ___. 
His mother died at age ___ from cancer.
 
Physical Exam:
PHYSICAL EXAMINATION on admission:
HEENT:  Unremarkable.
NECK:  Supple, no cervical bruit.
CHEST:  Clear.
HEART:  Regular.
NEUROLOGIC:  Grossly intact neurologically.  Normal carotid and
radial pulses.

Physical exam on discharge:
Gen: NAD, A&Ox3
Neck:  Supple, mild swelling in left neck no hematoma, trachea 
midline
Pulm:  CTAB, non-labored breathing
CV:  RRR, no m/r/g
Neuro: A&Ox3, CN intact, moves all extremities spontaneously and 
to command, sensory intact
 
Pertinent Results:
LAB:
___ 03:26AM BLOOD Hct-39.4*
___ 11:49PM BLOOD WBC-7.0# RBC-4.56* Hgb-13.9 Hct-42.0 
MCV-92 MCH-30.5 MCHC-33.1 RDW-11.7 RDWSD-39.5 Plt ___
___ 05:55AM BLOOD WBC-7.6 RBC-4.82 Hgb-14.9 Hct-45.6 MCV-95 
MCH-30.9 MCHC-32.7 RDW-11.9 RDWSD-41.1 Plt ___
___ 03:26AM BLOOD Creat-0.8 K-3.9
___ 11:49PM BLOOD Glucose-110* UreaN-10 Creat-0.9 Na-143 
K-3.8 Cl-103 HCO3-27 AnGap-13
___ 05:55AM BLOOD Glucose-103* UreaN-8 Creat-0.8 Na-144 
K-4.3 Cl-104 HCO3-22 AnGap-18
___ 11:49PM BLOOD Calcium-9.0 Phos-2.3* Mg-1.8
___ 05:55AM BLOOD Calcium-9.2 Phos-3.5 Mg-2.0

 
Brief Hospital Course:
Mr. ___ is a ___ with left carotid stenosis who 
underwent left carotid endarterectomy on ___. Please see 
operative note for details. He was transferred stable to the 
PACU. He experienced some generalized aches with joint pain and 
generalized weakness but no focal findings. Neurology were 
consulted and had no concerns. On discharge, he was tolerating a 
regular diet, was voiding spontaneously, and pain was well 
controlled.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atorvastatin 20 mg PO QPM 
2. Clopidogrel 75 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN pain  
2.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth three times a day Disp 
#*15 Tablet Refills:*0 
3.  Atorvastatin 10 mg PO QPM  
4.  Aspirin 81 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left carotid stenosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to ___ and underwent left carotid 
endarterectomy on ___. You are now stable for discharge.

WHAT TO EXPECT:
1. Surgical Incision:
• It is normal to have some swelling and feel a firm ridge along 
the incision
• Your incision may be slightly red and raised, it may feel 
irritated from the staples
2. You may have a sore throat and/or mild hoarseness
• Try warm tea, throat lozenges or cool/cold beverages 
3. You may have a mild headache, especially on the side of your 
surgery
• Try ibuprofen, acetaminophen, or your discharge pain 
medication
• If headache worsens, is associated with visual changes or 
lasts longer than 2 hours- call vascular surgeon’s office
4. It is normal to feel tired, this will last for ___ weeks 
• You should get up out of bed every day and gradually increase 
your activity each day 
• You may walk and you may go up and down stairs 
• Increase your activities as you can tolerate- do not do too 
much right away!
5. It is normal to have a decreased appetite, your appetite will 
return with time 
• You will probably lose your taste for food and lose some 
weight 
• Eat small frequent meals
• It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
• To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

MEDICATION:
• Take all of your medications as prescribed in your discharge 

ACTIVITIES:
• No driving until post-op visit and you are no longer taking 
pain medications
• No excessive head turning, lifting, pushing or pulling 
(greater than 5 lbs) until your post op visit
• You may shower (no direct spray on incision, let the soapy 
water run over incision, rinse and pat dry)
• Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area

CALL THE OFFICE FOR: ___
• Changes in vision (loss of vision, blurring, double vision, 
half vision)
• Slurring of speech or difficulty finding correct words to use
• Severe headache or worsening headache not controlled by pain 
medication
• A sudden change in the ability to move or use your arm or leg 
or the ability to feel your arm or leg
• Trouble swallowing, breathing, or talking
• Temperature greater than 101.5F for 24 hours
• Bleeding, new or increased drainage from incision or white, 
yellow or green drainage from incisions

 
Followup Instructions:
___